US04882326
In a nitrogen gas flow, 562 mg of L-cysteine hydrochloride monohydrate is dissolved in an aqueous solution of 2N sodium hydroxide. To the resulting solution, 5 ml of a tetrohydrofuran solution containing 1.2 g of 2-(1-benzyloxycarbonyl-4-piperidyl)ethyl iodide is added, and stirred for 1.5 hours at room temperature. Then, 3 ml of ethanol is further added, and stirred for 2 hours. The reaction solvent is distilled off under reduced pressure. To the residue, water and ether are added, and the mixture is shaken. The water layer is separated and adjusted to pH 5 with 2N aqueous hydrochloric acid to precipitate crystals. The crystals are recrystallized from methanol to give 0.8 g of S-[2-(1-benzyloxycarbonyl-4-piperidyl)ethyl]-L-cysteine having a melting point of 185° to 188° C.

reactant | L-cysteine hydrochloride monohydrate | 562 mg | O.Cl.N[C@@H](CS)C(=O)O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 2-(1-benzyloxycarbonyl-4-piperidyl)ethyl iodide | 1.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCI | C15H20INO2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | S-[2-(1-benzyloxycarbonyl-4-piperidyl)ethyl]-L-cysteine | 0.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCSC[C@H](N)C(=O)O | C18H26N2O4S
